US05081287
Under a nitrogen atmosphere a mixture of 8.0 grams (0.041 mole) of 7-phenyl-6-oxaheptan-1-ol and 1.4 grams of 95% silicon dioxide in 125 ml of methylene chloride was stirred, and 19.8 grams (0.090 mole) of pyridinium chlorochromate was added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for four hours. After this time the reaction mixture was diluted with diethyl ether and then was passed through a column of magnesium silicate. The eluate was concentrated under reduced pressure yielding 6.2 grams of 7-phenyl-6-oxaheptan-1-al. The reaction was repeated.

reactant | 7-phenyl-6-oxaheptan-1-ol | 0.041 mole, 8.0 grams | C1(=CC=CC=C1)COCCCCCO | C12H18O2
reactant | silicon dioxide | 1.4 grams | [Si](=O)=O | O2Si
reactant | pyridinium chlorochromate | 0.090 mole, 19.8 grams | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-phenyl-6-oxaheptan-1-al | 6.2 grams | C1(=CC=CC=C1)COCCCCC=O | C12H16O2
